US07169791B2
4-Methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-N-[[3-[(1-hydroxy-1-methyl-ethyl)]-5-(1,1,1-trifluoromethyl)phenyl]methyl]benzamide
Diethylcyanophosphonate (Aldrich, Buchs, Switzerland; 0.33 mL, 2.0 mmol) is added to a stirred mixture of 4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid (306 mg, 1.0 mmol), 3-[(1-hydroxy-1-methylethyl)]-5-(1,1,1-trifluoromethyl)benzeneamine (220 mg, 1.0 mmol) and triethylamine (560 μL, 4.0 mmol) in 5 mL N,N-dimethylformamide at 10° C. After stirring for 3 hours at 60° C., the mixture is treated with saturated aqueous solution of sodium hydrogen carbonate and extracted three times with ethyl acetate. The combined extracts are dried (MgSO4), filtered and the solvent is evaporated off under reduced pressure to afford a crude product which is recrystallised from ethylacetate to give the title compound as a crystalline solid, m.p. 253–258° C.

reactant | Diethylcyanophosphonate | 2.0 mmol, 0.33 mL | C(C)OP(OCC)(=O)C#N | C5H10NO3P
reactant | 4-methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-benzoic acid | 1.0 mmol, 306 mg | CC1=C(C=C(C(=O)O)C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C17H14N4O2
reactant | 3-[(1-hydroxy-1-methylethyl)]-5-(1,1,1-trifluoromethyl)benzeneamine | 1.0 mmol, 220 mg | OC(C)(C)C=1C=C(C=C(C1)C(F)(F)F)N | C10H12F3NO
reactant | triethylamine | 4.0 mmol, 560 μL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-Methyl-3-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]-N-[[3-[(1-hydroxy-1-methyl-ethyl)]-5-(1,1,1-trifluoromethyl)phenyl]methyl]benzamide | CC1=C(C=C(C(=O)NCC2=CC(=CC(=C2)C(F)(F)F)C(C)(C)O)C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C28H26F3N5O2
